US05143923
N-(1-Methylethyl)-N-[2-(1-(6-fluoro-1,2-benzisoxazol-3-yl)-4-piperadinyl)ethyl]-1,2-benzisoxazol-3-carboxamide
Under a nitrogen atmosphere, methanesulfonyl chloride (3.70 g) was rapidly added to a solution of N-(1-methylethyl)-N-(2-hydroxyethyl)-1,2-benzisoxazole-3-carboxamide (8.00 g), triethylamine (3.27 g), and tetrahydrofuran (150 ml), at 0° C., and the mixture stirred at 0° C. for 30 mins. To the mixture was added rapidly a suspension of 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine (7.80 g), triethylamine (6.53 g), and tetrahydrofuran (60 ml), and the mixture was heated under reflux for 12 hrs. Water was added and the solution was concentrated under reduced pressure. The residue was dissolved in dichloromethane (150 ml), washed with 10% sodium hydroxide solution, water, dried over anhydrous sodium sulfate, and filtered. The filtrate was concentrated under reduced pressure. The residue was chromatographed on silica gel, eluting with 80% ethyl acetate in hexanes. The appropriate fractions were collected and evaporated, and the residue was recrystallized from ether to afford 2.33 g (16.0%) of product, mp 118°-120° C.

reactant | methanesulfonyl chloride | 3.70 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-(1-methylethyl)-N-(2-hydroxyethyl)-1,2-benzisoxazole-3-carboxamide | 8.00 g | CC(C)N(C(=O)C1=NOC2=C1C=CC=C2)CCO | C13H16N2O3
reactant | 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine | 7.80 g | FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13FN2O
reactant | triethylamine | 6.53 g | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 3.27 g | C(C)N(CC)CC | C6H15N
solvent | Water | O | H2O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | N-(1-Methylethyl)-N-[2-(1-(6-fluoro-1,2-benzisoxazol-3-yl)-4-piperadinyl)ethyl]-1,2-benzisoxazol-3-carboxamide | 2.33 g, 16.0% | CC(C)N(C(=O)C1=NOC2=C1C=CC=C2)CCC2CCN(CC2)C2=NOC1=C2C=CC(=C1)F | C25H27FN4O3
